US07148239B2
N-[2-hydroxy-3-(1-piperidinyl)propoxy]-N′-heptyl-urea
To the solution of 1.23 g (7.1 mmol) of 1-aminooxy-2-hydroxy-3-(1-piperidinyl)-propane dissolved in 20 ml of chloroform 1.0 g (7.1 mmol) of heptyl isocyanate was added and the reaction mixture was stirred for 20 hours. Solvent was evaporated in vacuum and the residue was purified by chromatography to give pure colorless oil. White crystalline product was obtained by triturating with petroleum ether.

reactant | 1-aminooxy-2-hydroxy-3-(1-piperidinyl)-propane | 7.1 mmol, 1.23 g | NOCC(CN1CCCCC1)O | C8H18N2O2
reactant | chloroform | 7.1 mmol, 20 ml, 1.0 g | C(Cl)(Cl)Cl | CHCl3
reactant | heptyl isocyanate | C(CCCCCC)N=C=O | C8H15NO
product | N-[2-hydroxy-3-(1-piperidinyl)propoxy]-N′-heptyl-urea | OC(CONC(=O)NCCCCCCC)CN1CCCCC1 | C16H33N3O3
